US07501411B2
Step 2: 4-Amino-2-methoxy-N-[(6-methylpyridin-3-yl)methyl]benzamide
A solution of 2-methoxy-N-(6-methylpyridin-3-yl)methyl-4-nitrobenzamide (448 mg, 1.49 mmol) in EtOH and EtOAc (8 mL each) is stirred and ammonium formate (375 mg, 6 mmol) and 10% Pd/C (100 mg) are added. The mixture is heated at reflux for 20 min, cooled, filtered through celite, the solid is washed with EtOH and the combined solvents are evaporated to afford the title compound.

reactant | 2-methoxy-N-(6-methylpyridin-3-yl)methyl-4-nitrobenzamide | 1.49 mmol, 448 mg | COC1=C(C(=O)NCC=2C=NC(=CC2)C)C=CC(=C1)[N+](=O)[O-] | C15H15N3O4
reactant | ammonium formate | 6 mmol, 375 mg | C(=O)[O-].[NH4+]
solvent | EtOH | CCO | C2H6O
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-Amino-2-methoxy-N-[(6-methylpyridin-3-yl)methyl]benzamide | NC1=CC(=C(C(=O)NCC=2C=NC(=CC2)C)C=C1)OC | C15H17N3O2
